US07388103B2
Ethyl 1-benzyl-2-oxocyclopentane carboxylate
38.7 grams of anhydrous potassium carbonate and 90 ml of acetone were mixed, then with stirring, to the resulting mixture was dropwise added a solution of 10.4 ml of ethyl 2-oxocyclopentane carboxylate in 45 ml of acetone. After stirring at room temperature for 35 minutes, 16.7 ml of benzyl bromide was dropwise added thereto, and the reaction was allowed to continue under reflux for 3 hours. Then the reaction mixture was cooled to room temperature, filtered, concentrated, and distilled under reduced pressure. 11.54 g of colorless liquid as the second distillate cut was collected. Yield: 66.9%.

reactant | potassium carbonate | 38.7 grams | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-oxocyclopentane carboxylate | 10.4 ml | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | benzyl bromide | 16.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 45 ml | CC(=O)C | C3H6O
solvent | acetone | 90 ml | CC(=O)C | C3H6O
product | Ethyl 1-benzyl-2-oxocyclopentane carboxylate | Yield: 66.9% | C(C1=CC=CC=C1)C1(C(CCC1)=O)C(=O)OCC | C15H18O3
